US08349824B2
A mixture of ethyl 5-(2-(ethyl(methyl)amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate (366 mg, 985 μmol) and lithium hydroxide hydrate (82.7 mg, 1.97 mmol) in methanol (15 ml) and water (5 ml) was stirred for 5 hours at 50° C. The methanol was evaporated, the residue was diluted with water and was then neutralized with hydrochloric acid 1N (1.97 ml, 1.97 mmol). The precipitated white solid was filtered off, washed with water several times and dried affording 5-[2-(ethyl-methyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid (306 mg, 90.4%) as a white solid.

reactant | ethyl 5-(2-(ethyl(methyl)amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl)-1-methyl-1H-pyrazole-4-carboxylate | 985 μmol, 366 mg | C(C)N(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)OCC)=N1)C | C17H21N7O3
reactant | lithium hydroxide hydrate | 1.97 mmol, 82.7 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1.97 mmol, 1N, 1.97 ml | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 5-[2-(ethyl-methyl-amino)-[1,2,4]triazolo[1,5-a]pyridin-7-ylcarbamoyl]-1-methyl-1H-pyrazole-4-carboxylic acid | 306 mg, 90.4% | C(C)N(C1=NN2C(C=C(C=C2)NC(=O)C2=C(C=NN2C)C(=O)O)=N1)C | C15H17N7O3
